US06548495B2
{2-[3-(3-Imidazol-1-yl-phenyl)-3-oxo-propionylamino]-4-pyrrol-1-yl-phenyl}-carbamic Acid tert.-Butyl Ester
The title compound was prepared from (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert.-butyl ester (Example J2) (1.37 g, 5.0 mmol) and 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one (Example L3) (1.28 g, 4.75 mmol) according to the general procedure M. Obtained as a light brown foam (1.78 g).

reactant | (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert.-butyl ester | 5.0 mmol, 1.37 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)N1C=CC=C1)N)=O | C15H19N3O2
reactant | 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one | 4.75 mmol, 1.28 g | N1(C=NC=C1)C=1C=C(C=CC1)C1=CC(OC(O1)(C)C)=O | C15H14N2O3
product | {2-[3-(3-Imidazol-1-yl-phenyl)-3-oxo-propionylamino]-4-pyrrol-1-yl-phenyl}-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)N1C=CC=C1)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C27H27N5O4
